US09212182B2
To a microwave vial was added, 4-bromo-2-iodoaniline (1.70 g, 5.71 mmol), PdOAc2 (0.064 g, 0.285 mmol), sodium bicarbonate (1.198 g, 14.27 mmol), ethyl acrylate (0.651 ml, 5.99 mmol) and DMF (1.902 ml). The reaction was heated in microwave for 1 hour at 80° C. The reaction was cooled to room temperature, diluted with water and extracted with DCM (3×). The combined organics were washed with water and brine, dried over magnesium sulfate, filtered and concentrated. The resulting material was concentrated, dissolved in minimal DCM and purified via column chromatography (silica gel 40 g, gradient elution 0 to 50% EtOAc:Heptane) to afford 0.860 g of (E)-ethyl 3-(2-amino-5-bromophenyl)acrylate. m/z (ESI) 270.1 (M+H)+.

reactant | 4-bromo-2-iodoaniline | 5.71 mmol, 1.70 g | BrC1=CC(=C(N)C=C1)I | C6H5BrIN
reactant | sodium bicarbonate | 14.27 mmol, 1.198 g | C([O-])(O)=O.[Na+]
reactant | ethyl acrylate | 5.99 mmol, 0.651 ml | C(C=C)(=O)OCC | C5H8O2
reactant | DMF | 1.902 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (E)-ethyl 3-(2-amino-5-bromophenyl)acrylate | 0.860 g | NC1=C(C=C(C=C1)Br)/C=C/C(=O)OCC | C11H12BrNO2
